US07129232B2
To a solution of tert-butyl (3-{[5-amino-1-(2-fluoroethyl)-1H-pyrazol-4-yl]amino}-3-oxopropyl)carbamate (2.3 g) in N,N-dimethylformamide (12 ml) were added triethylamine (1.48 g), 4-dimethylaminopyridine (35.6 mg) and trityl chloride (2.2 g) at room temperature. The reaction mixture was stirred for 2 hours, and water was added. The mixture was extracted with ethyl acetate, and the organic layer was washed with water and aqueous sodium chloride solution. The organic layer was dried over magnesium sulfate and concentrated in vacuo. Acetonitrile was added, and the precipitate was collected by filtration to give tert-butyl (3-{[1-(2-fluoroethyl)-5-(tritylamino)-1H-pyrazol-4-yl]amino}-3-oxopropyl)carbamate (2 g).

reactant | tert-butyl (3-{[5-amino-1-(2-fluoroethyl)-1H-pyrazol-4-yl]amino}-3-oxopropyl)carbamate | 2.3 g | NC1=C(C=NN1CCF)NC(CCNC(OC(C)(C)C)=O)=O | C13H22FN5O3
reactant | triethylamine | 1.48 g | C(C)N(CC)CC | C6H15N
reactant | trityl chloride | 2.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 35.6 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl (3-{[1-(2-fluoroethyl)-5-(tritylamino)-1H-pyrazol-4-yl]amino}-3-oxopropyl)carbamate | 2 g | FCCN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(CCNC(OC(C)(C)C)=O)=O | C32H36FN5O3
